### PR TITLE
Bump Lean to 2023-04-20 and LeanSMT to newest version

### PR DESCRIPTION
**Pull request by Vtec234**

### CODE REVIEW

**Comment by joehendrix** [comment]
Looks like everything is passing, but I haven't reviewed carefully.  Could you let me know if/when you have the changes you want?

File: lib/Crypto/Array.lean [hunk 1]
```diff
@@ -131,23 +132,9 @@ theorem size_empty {α:Type _} : Array.size (#[] : Array α) = 0 := by rfl
...
-    simp [g, min]
-    cases Decidable.em (start ≤ size src) with
-    | inl h =>
-      simp [h]
-    | inr h =>
-      have q := Nat.gt_of_not_le h
-      simp [h, Nat.sub_self, Nat.lt_implies_zero_sub q]
+  -- TODO: This definition has changed in core so the lemmas above
+  -- no longer easily prove it.
+  sorry
```
Comment (Vtec234) [inline lib/Crypto/Array.lean:137]: This is the only meaningful change. I did not try proving this.

**Comment by Vtec234** [comment]
@joehendrix it should be ready. Almost all of the changes are just adapting to changes in Lean/mathlib, except the one proof I omitted (see comment).
